US07655644B2
2,4-dichloro-N-({3-(cyclopropylmethyl)-1-[(1-methyl-1H-1,2,3-triazol-4-yl)sulfonyl]azetidin-3-yl}methyl)benzamide
To a stirred solution of 2,4-dichloro-N-{[3-(cyclopropylmethyl)-1-(1H-1,2,3-triazol-4-ylsulfonyl)azetidin-3-yl]methyl}benzamide (0.1 g; 0.23 mmol) in DMF (5 ml) at 0° C. was added potassium carbonate (0.062 g; 0.45 mmol) followed by methyl iodide (0.048 g; 0.021 ml; 0.34 mmol) and the solution stirred for 18 hours at ambient temperature. LC/MS shows three new products of identical mass ion m/e=458:460 (3:2). Water (1 ml) was added, the solvent stripped at reduced pressure, and the residue azeotroped twice with toluene. The crude product was purified by preparative TLC on silica gel eluted with 4% Methanol DCM to give the title compound as the most polar isomer (24 mg).

reactant | 2,4-dichloro-N-{[3-(cyclopropylmethyl)-1-(1H-1,2,3-triazol-4-ylsulfonyl)azetidin-3-yl]methyl}benzamide | 0.23 mmol, 0.1 g | ClC1=C(C(=O)NCC2(CN(C2)S(=O)(=O)C=2N=NNC2)CC2CC2)C=CC(=C1)Cl | C17H19Cl2N5O3S
reactant | potassium carbonate | 0.45 mmol, 0.062 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.34 mmol, 0.021 ml, 0.048 g | CI | CH3I
reactant | Water | 1 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2,4-dichloro-N-({3-(cyclopropylmethyl)-1-[(1-methyl-1H-1,2,3-triazol-4-yl)sulfonyl]azetidin-3-yl}methyl)benzamide | ClC1=C(C(=O)NCC2(CN(C2)S(=O)(=O)C=2N=NN(C2)C)CC2CC2)C=CC(=C1)Cl | C18H21Cl2N5O3S
